US07425634B2
(4a) (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl acetate
4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-2,3,5-trimethylpyridine1-oxide (10.5 g, 37.4 mmol) was dissolved in acetic anhydride (100 mL) and the solution was stirred at 85° C. for 1.5 hours. After the reaction mixture was concentrated, the residue was purified by silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=1/1→0/1) and a desired fraction was concentrated to obtain the title compound (6.1 g, 50.4%) as a light yellow solid.

reactant | 4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-2,3,5-trimethylpyridine1-oxide | 37.4 mmol, 10.5 g | CC1(OCC(CO1)COC1=C(C(=[N+](C=C1C)[O-])C)C)C | C15H23NO4
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (4-((2,2-dimethyl-1,3-dioxan-5-yl)methoxy)-3,5-dimethylpyridin-2-yl)methyl acetate | 6.1 g, 50.4% | C(C)(=O)OCC1=NC=C(C(=C1C)OCC1COC(OC1)(C)C)C | C17H25NO5
